US09108966B2
A solution of 2-nitrobenzene-1-sulfonyl chloride (500 g, 2.26 mol) in pyridine (1500 mL) was added dropwise to a solution of O-benzylhydroxylamine hydrochloride (400 g, 2.51 mol) in pyridine (1500 mL) at 0° C. The reaction mixture was then stirred at 20° C. overnight. The mixture was concentrated in vacuum, diluted with DCM and washed with HCl (10%) three times. The combined organic layer was concentrated in vacuum and re-crystallized with DCM to afford N-(benzyloxy)-2-nitrobenzenesulfonamide (485 g, 62.6%) as a yellow solid.

reactant | 2-nitrobenzene-1-sulfonyl chloride | 2.26 mol, 500 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | O-benzylhydroxylamine hydrochloride | 2.51 mol, 400 g | Cl.C(C1=CC=CC=C1)ON
solvent | pyridine | 1500 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 1500 mL | N1=CC=CC=C1 | C5H5N
product | N-(benzyloxy)-2-nitrobenzenesulfonamide | 485 g, 62.6% | C(C1=CC=CC=C1)ONS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C13H12N2O5S
